US07320994B2
2-[5-[1-(3,5-bis-trifluoromethyl-benzyl)-5-phenyl-1H-[1,2,3]triazol-4-yl]-4-(2-chloro-benzyl)-4H-[1,2,4]triazol-3-yl]-ethanol
Dissolve [5-[1-(3,5-bis-trifluoromethyl-benzyl)-5-phenyl-1H-[1,2,3]triazol-4-yl]-4-(2-chloro-benzyl)-4H-[1,2,4]triazol-3-yl]-acetic acid ethyl ester (400 mg) in THF (10 mL). Add LAH (47 mg, soln in 10 mL of THF) at 0° C. and warm to RT overnight. Quench by slowly adding water (0.5 ml), 5N NaOH (0.5 ml) and then more water (3 ml). Filter reaction through Celite® to remove aluminum salts and then purify via radial chromatography using a gradient of 1:1 hexanes:EtOAc to 100% EtOAc to give the title compound (119 mg, 32%). MS (IS) 592.0 (M+1). Rf=0.11 (1:5 hexanes:EtOAc).

reactant | [5-[1-(3,5-bis-trifluoromethyl-benzyl)-5-phenyl-1H-[1,2,3]triazol-4-yl]-4-(2-chloro-benzyl)-4H-[1,2,4]triazol-3-yl]-acetic acid ethyl ester | 400 mg | C(C)OC(CC1=NN=C(N1CC1=C(C=CC=C1)Cl)C=1N=NN(C1C1=CC=CC=C1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O | C30H23ClF6N6O2
reactant | LAH | 10 mL, 47 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-[5-[1-(3,5-bis-trifluoromethyl-benzyl)-5-phenyl-1H-[1,2,3]triazol-4-yl]-4-(2-chloro-benzyl)-4H-[1,2,4]triazol-3-yl]-ethanol | 119 mg, 32% | FC(C=1C=C(CN2N=NC(=C2C2=CC=CC=C2)C=2N(C(=NN2)CCO)CC2=C(C=CC=C2)Cl)C=C(C1)C(F)(F)F)(F)F | C28H21ClF6N6O
